### PR TITLE
[Merged by Bors] - feat(GroupTheory/FreeGroup): add definition of cyclically reduced words

### PR DESCRIPTION
**Pull request by b-reinke**
This PR adds the definition of cyclically reduced words for free groups. It is a part of a series of PR on the theory of cyclically reduced words.

Upstreamed from the [EquationalTheories](https://github.com/teorth/equational_theories) project.

 - [x] depends on: #25966

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+  simp [IsCyclicallyReduced]
+
+@[to_additive (attr := simp)]
+theorem isCyclicallyReduced_singleton {x : (α × Bool)} : IsCyclicallyReduced [x] := by
+  simp [IsCyclicallyReduced]
+
+@[to_additive]
+theorem isCyclicallyReduced_iff :
+    IsCyclicallyReduced L ↔
+    IsReduced L ∧ ∀ a ∈ L.getLast?, ∀ b ∈ L.head?, a.1 = b.1 → a.2 = b.2 := by rfl
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]:
```suggestion
    IsReduced L ∧ ∀ a ∈ L.getLast?, ∀ b ∈ L.head?, a.1 = b.1 → a.2 = b.2 := rfl
```

**Review by tb65536 — APPROVED** [review]
maintainer delegate

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean (hunk 1 above)
Comment (b-reinke) [reply Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: Actually, since this is an `iff` statement, just `rfl` does not work. I have replaced it by `rfl.to_iff`, not sure whether this is preferred over `by rfl`

Comment (tb65536) [reply Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: Ah, sorry, then does `Iff.rfl` work?

Comment (b-reinke) [reply Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: Yes, `Iff.rfl` works fine

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+the first and the last letter of the word do not cancel. The empty word is by convention also
+cyclically reduced. -/
+@[to_additive /-- Predicate asserting that the word `L` is cyclically reduced, i.e., it is reduced
+and furthermore the first and the last letter of the word do not cancel. The empty word is by
+convention also cyclically reduced. -/]
+def IsCyclicallyReduced (L : List (α × Bool)) : Prop :=
+  IsReduced L ∧ ∀ a ∈ L.getLast?, ∀ b ∈ L.head?, a.1 = b.1 → a.2 = b.2
+
+@[to_additive (attr := simp)]
+theorem isCyclicallyReduced_nil : IsCyclicallyReduced ([] : List (α × Bool)) := by
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: What about opening a namespace here? I think `IsCyclicallyReduced.nil` is a good name.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean (hunk 2 above)
Comment (b-reinke) [reply Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: I have opened one, but I have kept `isCyclicallyReduced_iff` and `isCyclicallyReduced_cons_append_iff` outside. This is at least consistent with the way it is done for `IsReduced` at the moment.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: Ah I see, yes, let's keep things consistent then.
